US09102591B2
2,3-Dichloro-N-[3-cyclopropyl-2-(2,6-dimethyl-3-pyridyl)propyl]benzamide
From 2,3-dichlorobenzoic acid and 3-cyclopropyl-2-(2,6-dimethyl-pyridin-3-yl)-propylamine. LCMS (MH+): m/z=377.1, tR (minutes, Method G)=1.68

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 3-cyclopropyl-2-(2,6-dimethyl-pyridin-3-yl)-propylamine | C1(CC1)CC(CN)C=1C(=NC(=CC1)C)C | C13H20N2
product | 2,3-Dichloro-N-[3-cyclopropyl-2-(2,6-dimethyl-3-pyridyl)propyl]benzamide | ClC1=C(C(=O)NCC(CC2CC2)C=2C(=NC(=CC2)C)C)C=CC=C1Cl | C20H22Cl2N2O
